Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
MVA
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with HTN admitted to NSGY s/p restrained MVA w/ positive 
head strike found to have small subdural hematoma, managed 
non-operatively, stable over several days (on exam and CT) w/ 
hospital course c/b thrombocyopenia thought to be ITP. 

 
Past Medical History:
1) Hypertension
2) Exploratory laparotomy for pelvic pain (negative)
3) appendectomy age ___
4) vitamin D deficiency
5) status post laparoscopy for pelvic pain, uncertain when
6) staus post trigger finger release
7) last colonoscopy ~1 mo ago, polyp removed, she was told it 
was
benign
8) premature ovarian failure age ___, no periods since

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
O:  BP: 128/71      HR: 77   R 21      O2Sats 100% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 3-2mm PERRL         EOMs intact
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

On the day of discharge:

Tmax98.8, 97.5, 110-124/64-90, 52-66, 18 96-100% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, Right cojunctival hemorrhage, b/l 
periorbital bruising, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops, tenderness of sternum upon palpation c/w injury sustain 
during MVA
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: strength was full, sensation was intact. patient was 
alert and oriented to person, place, time. pupils were ___ 
bilaterally.  

 
Pertinent Results:
Admission Labs:
___ 07:48AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:00AM BLOOD WBC-6.9 RBC-4.00* Hgb-11.5* Hct-34.2* 
MCV-86 MCH-28.7 MCHC-33.6 RDW-13.8 Plt Ct-30*
___ 11:00AM BLOOD Neuts-73.9* ___ Monos-2.9 Eos-0.6 
Baso-0.2
___ 11:00AM BLOOD ___ PTT-32.0 ___
___ 09:12AM BLOOD ___

Additional Labs:
___ 12:04PM BLOOD ___
___ 06:00PM BLOOD HIV Ab-NEGATIVE
___ 04:46AM BLOOD HCV Ab-NEGATIVE
___ 06:00PM BLOOD HCV Ab-NEGATIVE

Discharge Labs:
___ 05:39AM BLOOD WBC-9.7 RBC-3.41* Hgb-9.9* Hct-29.2* 
MCV-86 MCH-29.0 MCHC-33.8 RDW-13.7 Plt ___
___ 05:39AM BLOOD Glucose-154* UreaN-19 Creat-0.8 Na-139 
K-4.2 Cl-105 HCO3-27 AnGap-11
___ 05:39AM BLOOD Calcium-9.5 Phos-3.0 Mg-2.3
___ 06:00PM BLOOD calTIBC-265 Ferritn-130 TRF-204

CT HEAD W/O CONTRAST Study Date of ___ 7:08 AM  IMPRESSION: 
1. Small subdural hemorrhage along the falx and extra-axial 
hemorrhage layering along the left convexity. 

CT C-SPINE W/O CONTRAST Study Date of ___ 7:09 AM 
IMPRESSION: No fracture. 

CT SINUS/MANDIBLE/MAXILLOFACIAL W/O CONTRAST Study Date of 
___ 7:09 AM IMPRESSION: No fracture.

CT CHEST/ABDOMEN/PELVIS W/CONTRAST Study Date of ___ 7:10 
AM IMPRESSION: 
1. No acute traumatic injury identified in the chest, abdomen, 
and pelvis. 
2. Incidental findings include subcentimeter hepatic and renal 
hypodense 
lesions, which are too small to characterize in this study. 
3. A single 4 mm perifissural nodule in the right lung, could 
represent a 
intra-pulmonary node or nodule. Based on ___ guidelines, 
follow-up 
chest CT in one year is recommended in a high-risk patient.  

CT HEAD W/O CONTRAST Study Date of ___ 9:05 AM IMPRESSION: 
Overall stable subdural hemorrhage along the falx, left parietal 
concavity, and bilateral tentorial leaflets, with a mild 
re-distribution since one day prior. No increased mass effect or 
intra-axial hemorrhage. 
TRAUMA #3 (PORT CHEST ONLY) Study Date of ___ 6:51 AM 
FINDINGS: 
There is elevation of the right hemidiaphragm, likely 
eventration. Although no large pneumothorax is visualized, the 
prominent sulcus on the left iss noted. There is no focal lung 
consolidation or pleural effusion.  
Calcification is seen at the aortic arch, which is smooth in 
contour. Hilar, mediastinal, and cardiac silhouette are within 
normal limits. No evidence of a displaced rib fracture. There is 
a small metallic object projecting at the left axilla, that may 
be outside of the body. Trauma board is giving suboptimal 
evaluation of the fine details. Two round metallic objects 
projecting at the right and left chest, probably outside of the 
body. 

 
Brief Hospital Course:
___ with HTN admitted to ___ s/p restrained MVA w/ head strike 
found to have small subdural, managed non-operatively, stable 
over several days w/ hospital course c/b thrombocyopenia thought 
to be ITP. 

Active Problems
1) Subdural Hematoma: Ms. ___ was admitted to ___ on ___ 
after MVA with positive head strike.  cleared by ACS in the 
emergency room for other injury and admitted to the 
neurosurgical service for observation. She was started on Keppra 
for seizure prophylaxis, and BP control (goal SBP <16) with 
atenolol and prn hydralazine. She remained neurologically stable 
with only complaint of back pain, but CT torso was normal. A 
repeat Head CT was performed on ___ and ___ were stable and 
revealed some resolution of the previously seen SDH.  She will 
reamin on keppra until f/u with neurosurgery on ___, at 
which time she will also have followup CT. 

2) Thrombocytopenia: It was noted that her platelet count was 
only 30k. This was repeated and confirmed 30k. Hematology was 
called for recommendations. She was transfused 3 units of 
platelets. Completed a 4-day course of dexamethasone 40mg, and 
receivd 1 infusion of IVIG. She responded well to the treatment, 
platelets trended up to 129 on day of discharge.  

3) Positive guaiac: Hct stable in at ___. However, 
thrombocytopenia may unmask colonic growths, although it is 
unlikely with normal colonoscopy 1 months prior to admission. 

Inactive Problems:
1) Subconjunctival Hemorrhage: Ophthomology was consulted who 
felt that the findings were c/w minor trauma in the setting of 
thrombocytopenia, not concerning for retinal or CN involvement. 

Transfer of Care:
1) Resolving SDH-If she develops visions changes, new/worsening 
headache, gait abnormality, confusion, or any other neurological 
symptoms may indicate expansion of SDH. Pt will need emergent CT 
and evulation.
2) Thrombocytopenia-please f/u platelet counts to monotiro 
improvement. If pt continues to be severely thrombocytopenic, 
she may need BM biopsy for evaluation and/or splenectomy 
depending on BM results. 
3) Positive guaiac-malignancy may be unmasked by 
thrombocytopenia. Pt has followup appointment with PCP at ___. 
Per patient, she had a normal colonoscopy with removal of benign 
polyp 1 month ago and has f/u colonoscopy in ___.
 
Medications on Admission:
Atenolol
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for headache: do not exceed 4 grams tylenol 
within 24 hours.  
2. oxycodone 5 mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for headache for 2 weeks: do not drive while taking, 
do not take if lethargic.
Disp:*40 Tablet(s)* Refills:*0*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): hold for loose stool- take while taking oxycodone.
Disp:*60 Capsule(s)* Refills:*2*
4. senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
hold for loose stools.
Disp:*60 Tablet(s)* Refills:*2*
5. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
home medication.  
6. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) for 4 weeks: until follow up in 4 weeks.
Disp:*56 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
1.Acute subdural hematoma
2.Thrombocytopenia, likely ITP (immune thrombocytopenic purpura)
3. Guiaic postive stool

Secondary Diagnosis:
1) HTN
2) vitamin D deficiency
3) s/p laparoscopy for pelvic pain, uncertain when
4) s/p appendectomy age ___
5) s/p trigger finger release
6) last colonoscopy ~1 mo ago, polyp removed, she was told it 
was
benign
7) premature ovarian failure age ___, no periods since

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ was a pleasure taking care of you. You were admitted after a 
motor vehicle accident, and was found to have a small subdural 
hematoma, which means you had a bleeding in your brain that had 
stopped. You were initially admitted to the neurosurgery 
service, who decided to treat you conservatively, without 
surgery. Your neurological exam and CT scans had been stable 
during your stay. Due to your head injury, you are at an 
increased risk of seizures. You were started on an anti-seizure 
medication (Keppra) and will stay on this medication for 4 
weeks. We also recommend that you avoid lifting heavy objects, 
taking any drugs that will thin your blood (such as aspirin), 
and use stool softner for the next month. If you do develop an 
change in your mental status, new or worsening headaches, vision 
problems, or gait problem, please report to a physician 
___. 

During this admission, it was incidentally found that you had a 
low platelet count, which may be due to a condition called 
Immune Thrombocytopenic Purpura (ITP), a condition caused by 
increased destruction of platelets due to unknown cause. Your 
HIV test was negative. You were treated with steriods for 4 days 
and one infusion of IVIG. We also transfused you with 3units of 
platelets. You platelet counts returned to normal on ___. You 
will need to check your platelets at the followup visit.

The medications you will go home with are:
1. Keppra (Levetiracetam)500 mg every 12 hours: This is the 
anti-seizure medication. You will stay on this medication for 4 
weeks. You will followup with the neurosurgeon attending who 
took care of you, Dr. ___.
2. Atenolol 25 mg everyday: This is a medicaiton for your blood 
pressure. We ideally want to keep your systolic blood pressure 
under 160 to prevent possible extension of the bleed inside your 
head.
3. Docusate Sodium 100mg and Senna 8.6mg everyday: these 
medications will help soften your stool to prevent straining 
when you go to the bathroom.
4. Oxycodone 5mg and acetaminophen 325mg daily: these 
medications will help manage your pain

Here are additional recommendations from neurosurgery:
1. Take your pain medicine as prescribed
2. Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
3. Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
4. Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc. 
5. If a physican recomends for you to begin a medication such as 
Coumadin (Warfarin), or Plavix (clopidogrel), or Aspirin 
following to your injury, do not begin these until cleared by 
Neurosurgery Dr ___.
6. You have been discharged on Keppra (Levetiracetam)500 mg 
every 12 hours, you will not require blood work monitoring.

 
Followup Instructions:
___